US05091432
Synthesis of 4-[[2-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1oxopropyl]amino]ethyl]amino]-2-hydroxy-4-oxo-N,N,N-trimethyl-1-butanaminium chloride (AIT-0090)
248 mg (1.0344 mmol) of 4-[(2-aminoethyl)amino]-2-hydroxy-4-oxo-N,N,N-trimethyl-1-butanaminium chloride was placed into a 10 ml round bottom flask with magnetic stirring bar. Then 2 ml of dimethylsulfoxide was added and the solution was gently heated to help dissolve the amine. 340 mg (1.034 mmol) of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propanoic acid, 4-nitrophenyl ester (AIT-0081) was added to the stirring solution. The solution was stirred for a period of one hour and 3 ml of methanol was added. Then 3 ml of acetone was added and the solution was filtered. The solid was washed several times with acetone and allowed to dry. This yielded 105 mg of 4-[[2-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]amino]ethyl]amino]-2-hydroxy-4-oxo-N,N,N-trimethyl-1-butanaminium chloride (AIT-0090) as a white solid. m.p. approximately 260-265 (dec) Yield: 33%.

reactant | 4-[(2-aminoethyl)amino]-2-hydroxy-4-oxo-N,N,N-trimethyl-1-butanaminium chloride | 1.0344 mmol, 248 mg | [Cl-].NCCNC(CC(C[N+](C)(C)C)O)=O
reactant | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
reactant | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propanoic acid, 4-nitrophenyl ester | 1.034 mmol, 340 mg | O=C1C=2N=CN(C2N=CN1)CCC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C14H11N5O5
reactant | methanol | 3 ml | CO | CH4O
solvent | acetone | 3 ml | CC(=O)C | C3H6O
product | 4-[[2-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1oxopropyl]amino]ethyl]amino]-2-hydroxy-4-oxo-N,N,N-trimethyl-1-butanaminium chloride | Yield: 33% | [Cl-].O=C1C=2N=CN(C2N=CN1)CCC(=O)NCCNC(CC(C[N+](C)(C)C)O)=O | InChI=1S/C17H27N7O4.ClH/c1-24(2,3)9-12(25)8-14(27)19-6-5-18-13(26)4-7-23-11-22-15-16(23)20-10-21-17(15)28;/h10-12,25H,4-9H2,1-3H3,(H2-,18,19,20,21,26,27,28);1H
